US04374836
A mixture of 3-methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one (1.0 g) and 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole (0.924 g) was heated at 135° C. for 3 hours. The residue was dissolved in dimethyl formamide (20 ml) and the solution was allowed to stand at room temperature for 8 days. A yellow brown solid precipitated out of solution, and this was filtered off and dried in air, then purified using pressure assisted short bed column chromatography (Kieselgel 60) with chloroform/methanol/ammonia (s.g. 0.880) 8:2:0.3 v/v/v as eluant, to give 6-(3-methoxybenzyl)-3-[2-(2-guanidinothiazol-4-yl-methylthio)ethylamino]-1,2,4-triazin-5-one (0.1 g). The n.m.r. spectrum of the product in d4 acetic acid using tetramethylsilane as an internal standard (δ=0) had the following resonances (δ): 2.8 (2H, multiplet); 3.5 (2H, multiplet); 3.75 (5H, singlet); 3.9 (2H, singlet); 6.8-6.9 (4H, multiplet); 7.2 (1H, broad doublet).

reactant | 3-methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one | 1.0 g | CSC1=NN=C(C(N1)=O)CC1=CC(=CC=C1)OC | C12H13N3O2S
reactant | 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole | 0.924 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(3-methoxybenzyl)-3-[2-(2-guanidinothiazol-4-yl-methylthio)ethylamino]-1,2,4-triazin-5-one | 0.1 g | COC=1C=C(CC=2C(NC(=NN2)NCCSCC=2N=C(SC2)NC(=N)N)=O)C=CC1 | C18H22N8O2S2
